US07572794B2
To a stirred solution of thiomorpholine (1.0 g, 9.7 mmol) in isopropanol (25 mL) at rt was added trimethylsilylisocyanate (1.9 mL, 13.45 mmol) and the resulting solution stirred overnight. The resulting suspension was filtered and the filtrate concentrated in vacuo to give thiomorpholine-4-carboxylic acid amide (1.18 g, 89%); 1H-NMR (300 MHz, d6-DMSO) 6.00 (2H, s), 3.53-3.57 (4H, m), 2.46-2.51 (4H, m, obscured by solvent).

reactant | thiomorpholine | 9.7 mmol, 1.0 g | N1CCSCC1 | C4H9NS
reactant | trimethylsilylisocyanate | 13.45 mmol, 1.9 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | thiomorpholine-4-carboxylic acid amide | 1.18 g, 89% | N1(CCSCC1)C(=O)N | C5H10N2OS
